US05578620
5-[4-{2(S)-[5(S)-(3-Chlorophenoxymethyl)-2-oxooxazolidin -3-yl]propoxy}benzyl]thiazolidine-2,4-dione (Compound No. 1-94)
A procedure similar to that described in Example 1 was repeated, except that 286 mg of 5-[4-{2(S)-[5(S)-(3-chlorophenoxymethyl)-2-oxooxazolidin-3-yl]propoxy}benzyl]-3-triphenylmethylthiazolidine -2,4-dione (prepared as described in Preparation 41), 1 ml of trifluoroacetic acid and 1 ml of methylene chloride were used, to give 150 mg of the title compound, melting at 54° C. to 56° C. and having [α]D =+41.8° (methanol, c=0.975).

reactant | 5-[4-{2(S)-[5(S)-(3-chlorophenoxymethyl)-2-oxooxazolidin-3-yl]propoxy}benzyl]-3-triphenylmethylthiazolidine -2,4-dione | 286 mg | ClC=1C=C(OC[C@@H]2CN(C(O2)=O)[C@H](COC2=CC=C(CC3C(N(C(S3)=O)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)=O)C=C2)C)C=CC1 | C42H37ClN2O6S
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 5-[4-{2(S)-[5(S)-(3-Chlorophenoxymethyl)-2-oxooxazolidin -3-yl]propoxy}benzyl]thiazolidine-2,4-dione | 150 mg | ClC=1C=C(OC[C@@H]2CN(C(O2)=O)[C@H](COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C=CC1 | C23H23ClN2O6S
